US07067520B2
80 mg of sodium hydride (60%) was added to 400 mg of 7-hydroxy-5-methylthiopyrazolo[1,5-a]pyrimidine-6-carbonitrile and 6 ml of DMF, followed by stirring at room temperature for about 10 minutes, and then 350 mg of benzyl bromide was added thereto, followed by stirring at about 50° C. overnight. After completion of the reaction, the reaction mixture was cooled to room temperature, about 50 ml of water was added thereto, and the precipitated crystals were collected by filtration, washed with water and dried to obtain crude crystals. The crude crystals were purified by silica gel column chromatography to obtain 490 mg of 7-benzyloxy-5-methylthiopyrazolo[1,5-a]pyrimidine-6-carbonitrile (compound No. 51) having a melting point of 194° C.

reactant | sodium hydride | 80 mg | [H-].[Na+]
reactant | 7-hydroxy-5-methylthiopyrazolo[1,5-a]pyrimidine-6-carbonitrile | 400 mg | OC1=C(C(=NC=2N1N=CC2)SC)C#N | C8H6N4OS
reactant | DMF | 6 ml | CN(C)C=O | C3H7NO
reactant | benzyl bromide | 350 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | about 50 ml | O | H2O
product | 7-benzyloxy-5-methylthiopyrazolo[1,5-a]pyrimidine-6-carbonitrile | 490 mg | C(C1=CC=CC=C1)OC1=C(C(=NC=2N1N=CC2)SC)C#N | C15H12N4OS
